US07825128B2
4) 2-(2-chloro-5-iodopyrimidine-4-ylamino)ethanol
In the reaction of 2,4-dichloro-5-iodopyrimidine (2.0 g, 7.3 mmol) with 2-amino-ethanol (480 mg, 7.9 mmol) according to procedure 2, the desired product is obtained in 83% yield (1.8 g) after chromatographic purification (silica gel, dichloromethane/methanol (0% to 20% methanol)).

reactant | 2,4-dichloro-5-iodopyrimidine | 7.3 mmol, 2.0 g | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | 2-amino-ethanol | 7.9 mmol, 480 mg | NCCO | C2H7NO
product | 2-(2-chloro-5-iodopyrimidine-4-ylamino)ethanol | 83% yield | ClC1=NC=C(C(=N1)NCCO)I | C6H7ClIN3O
